US08426402B2
(R)-Methyl 1-(4-(benzyloxy)-5-methoxy-2-nitrobenzoyl)piperidine-2-carboxylate (239)
4-(benzoyloxy)-5-methoxy-2-nitrobenzoic acid (1.70 g, 5.61 mmol), (R)-methyl piperidine-2-carboxylate (1.05 g, 5.84 mmol), EDC (3.90 g, 20.31 mmo) and DIPEA (1.0 ml, 5.75 mmol) was stirred in 20 ml of DMA over night. The mixture was evaporated, diluted with DCM, washed with washed 1M NaH2PO4/NaCl (conc) and 0.1 M NaHCO3/NaCl (conc) separately. The organic solvent layer was separated and dried over MgSO4, filtered, concentrated and purified on SiO2 chromatography eluted with EtAc/DCM (1:15) to afford 1.772 g (74%) of the title product. 1H NMR (CDCl3) 7.69 (s, 1H), 7.40- 7.38 (m, 2H), 7.35-7.27 (m, 3H), 6.76 (d, 1H), 5.15 (s, 2H), 3.91 (s, 3H), 3.83 (s, 1H), 3.73 (s, 3H), 3.18 (m, 2H), 1.70 (m 2H), 1.47 (m, 4H); 13C NMR 171.89, 171.33, 155.10, 154.78, 148.32, 135.59, 129.05, 128.74, 127.80, 109.66, 109.58, 109.41, 71.63, 56.92, 52.70, 52.19, 45.70, 39.92, 27.29, 26.35, 21.63; MS m/z+ 451.2 (M+Na).

reactant | 4-(benzoyloxy)-5-methoxy-2-nitrobenzoic acid | 5.61 mmol, 1.70 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=O)O)C=C1OC)[N+](=O)[O-] | C15H11NO7
reactant | (R)-methyl piperidine-2-carboxylate | 5.84 mmol, 1.05 g | N1[C@H](CCCC1)C(=O)OC | C7H13NO2
reactant | EDC | 3.90 g
reactant | DIPEA | 5.75 mmol, 1.0 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 20 ml | CC(=O)N(C)C | C4H9NO
product | (R)-Methyl 1-(4-(benzyloxy)-5-methoxy-2-nitrobenzoyl)piperidine-2-carboxylate | 1.772 g, 74% | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)N2[C@H](CCCC2)C(=O)OC)C=C1OC)[N+](=O)[O-] | C22H24N2O7
